US06150373
A mixture of 120 mg (0.27 mmol) of 3-(2,6-dichlorophenyl)-7-methane-sulfonyl-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one and 370 mg (1.8 mmol) of 4-[2-(diethylamino)ethoxy]aniline was heated at 180° C. for 40 minutes and then cooled. The residue was chromatographed on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined and evaporated. The residue was evaporated with toluene and then dissolved in 50 ml of dichloromethane. The solution was washed with 50 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated. The residual solid was purified by crystallisation from cyclohexane/ethyl acetate to give 10 mg (6%) of 3-(2,6-dichlorophenyl)-7-[4-[2-(diethylamino) ethoxy]anilino]-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one as an off-white solid of melting point 162-163° C.

reactant | 3-(2,6-dichlorophenyl)-7-methane-sulfonyl-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.27 mmol, 120 mg | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC=CC=C1)=O | C19H14Cl2N4O3S
reactant | 4-[2-(diethylamino)ethoxy]aniline | 1.8 mmol, 370 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
product | 3-(2,6-dichlorophenyl)-7-[4-[2-(diethylamino) ethoxy]anilino]-3,4-dihydro-1-phenylpyrimido[4,5-d]pyrimidin-2(1H)-one | 10 mg, 6% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C1=CC=CC=C1)=O | C30H30Cl2N6O2
